US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using 4-amino-6-methoxythiochromane-7-carboxylic acid methyl ester (700 mg), potassium carbonate (535 mg) and di-tert-butyldicarbonate (725 mg), the objective 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester (827 mg) was obtained as colorless crystals.

reactant | 4-amino-6-methoxythiochromane-7-carboxylic acid methyl ester | 700 mg | COC(=O)C1=C(C=C2C(CCSC2=C1)N)OC | C12H15NO3S
reactant | potassium carbonate | 535 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 725 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid methyl ester | 827 mg | COC(=O)C1=C(C=C2C(CCSC2=C1)NC(=O)OC(C)(C)C)OC | C17H23NO5S
